US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(piperidine-2-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid bis hydrochloride
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (25 mg) was suspended in DCM, 0.1 mL DIEA added and mixture concentrated to provide a solid. In a separate vial, EDC (35 mg) and piperidine-1,2-dicarboxylic acid mono-tert-butyl ester (83 mg) were dissolved in DCM and stirred 15 min. This solution was added to the solid and mixture stirred for 4 hours. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+2% MeOH). The resulting compound was hydrolyzed (2 mg removed before deprotection) and deprotected according to General Procedures B and C to provide the title compound (10 mg). LCMS (m/z): 850.

reactant | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 25 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 35 mg
reactant | piperidine-1,2-dicarboxylic acid mono-tert-butyl ester | 83 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(piperidine-2-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid bis hydrochloride | 10 mg | Cl.Cl.ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(=O)C3NCCCC3)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | InChI=1S/C47H46Cl2N4O7.2ClH/c1-27-28(2)50-18-16-36(27)31-9-6-29(7-10-31)20-40(47(56)57)52-45(54)41-21-33-22-42-43(23-34(33)24-53(41)46(55)39-5-3-4-17-51-39)60-44(26-59-42)32-11-13-35(14-12-32)58-25-30-8-15-37(48)38(49)19-30;;/h6-16,18-19,22-23,39-41,44,51H,3-5,17,20-21,24-26H2,1-2H3,(H,52,54)(H,56,57);2*1H/t39?,40-,41-,44+;;/m0../s1
